US06472412B1
A solution of 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde (1.4 g) in glacial acetic acid (20 mL) is treated with sulfamic acid (0.82 g) at room temperature and stirred for 10 minutes. The resulting yellow solution is cooled to 0° C. and treated with a solution of sodium chlorite (0.69 g of an 80% pure sample) in water (20 mL) during 10 minutes. The resulting yellow suspension is stirred at room temperature for 3 hours, poured into water (100 mL) and filtered to give 3-cyclopentyloxy-6-fluoro-4-methoxybenzoic acid (0.88 g), in the form of a white solid. [NMR (CDCl3): 7.46 (d, 1H, J=8 Hz), 6.65 (d, 1H, J=12 Hz), 4.80-0.76 (m, 1H), 3.90 (s, 3H), 2.01-1.58 (m, 8H)].

reactant | 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde | 1.4 g | C1(CCCC1)OC=1C=C(C=O)C(=CC1OC)F | C13H15FO3
reactant | sulfamic acid | 0.82 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-cyclopentyloxy-6-fluoro-4-methoxybenzoic acid | 0.88 g | C1(CCCC1)OC=1C=C(C(=O)O)C(=CC1OC)F | C13H15FO4
